US04329367
The starting material is prepared as follows: The solution of 12 g of dl-p-benzyloxyamphetamine, and 10.4 g of β-phenyl-cinnamaldehyde in 300 ml of absolute ethanol is treated dropwse with the solution of 3 g of sodium borohydride in 6.7 ml of water while stirring. It is refluxed for 18 hours, concentrated to remove most of the ethanol and diluted with water. The mixture is extracted with ethyl acetate and the organic layer washed with brine, dried and evaporated, to yield the dl-1-(p-benzyloxyphenyl)-2-(3,3-diphenylallylamino)-propane; its maleate melts at 177°-178°.

reactant | p-benzyloxyamphetamine | C(C1=CC=CC=C1)OC1=CC=C(CC(N)C)C=C1 | C16H19NO
reactant | β-phenyl-cinnamaldehyde | 10.4 g | C1(=CC=CC=C1)C(=CC=O)C1=CC=CC=C1 | C15H12O
reactant | sodium borohydride | 3 g | [BH4-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 6.7 ml | O | H2O
product | 1-(p-benzyloxyphenyl)-2-(3,3-diphenylallylamino)-propane | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31NO
